US07915271B2
6-iodo-3-(4-methoxyphenyl)-2-methylpyridine (100 mg, 0.308 mmol), dichloro bis(triphenylphosphine)palladium(II) (22 mg, 0.031 mmol), triethylamine (46.7 mg, 0.462 mmol), benzyl alcohol (1 mL, 9.66 mmol) were mixed in acetonitrile (3 mL). The resulting mixture was placed under to carbon monoxide at 45 psi at 60° C. for 18 hours. The resulting reaction crude was purified by preparative TLC on SiO2 (eluted with 25% ethyl acetate in hexanes then 10% triethylamine, 20% ethyl acetate in hexanes) to afford benzyl 5-(4-methoxyphenyl)-6-methylpyridine-2-carboxylate. LCMS calc.=333.14; found=334.13 (M+1)+.

reactant | 6-iodo-3-(4-methoxyphenyl)-2-methylpyridine | 0.308 mmol, 100 mg | IC1=CC=C(C(=N1)C)C1=CC=C(C=C1)OC | C13H12INO
reactant | triethylamine | 0.462 mmol, 46.7 mg | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 9.66 mmol, 1 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | carbon monoxide | [C]=O | CO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | dichloro bis(triphenylphosphine)palladium(II) | 0.031 mmol, 22 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | benzyl 5-(4-methoxyphenyl)-6-methylpyridine-2-carboxylate | COC1=CC=C(C=C1)C=1C=CC(=NC1C)C(=O)OCC1=CC=CC=C1 | C21H19NO3
